US07470679B2
(R)-3-(7-chloro-4-(chloromethyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate
(R)-3-(7-chloro-4-(hydroxymethyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate (6.5 g, 16.72 mmol) in dichloromethane (100.0 ml, 1554 mmol) was added Diisopropylethyl amine (2.59 g, 20.06 mmol) followed by methanesulfonyl chloride (1.433 ml, 18.39 mmol). After 2 h, the reaction mixture was quenched with aqueous NaHCO3, dried (Na2SO4) and the solvent was removed. MS (ESI) 407 (M+H); Rf=1.69.

reactant | (R)-3-(7-chloro-4-(hydroxymethyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate | 16.72 mmol, 6.5 g | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC=1C(=C2C=NNC2=C(C1)Cl)CO | C19H17ClN2O5
reactant | dichloromethane | 1554 mmol, 100.0 ml | ClCCl | CH2Cl2
reactant | Diisopropylethyl amine | 20.06 mmol, 2.59 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 18.39 mmol, 1.433 ml | CS(=O)(=O)Cl | CH3ClO2S
product | (R)-3-(7-chloro-4-(chloromethyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC=1C(=C2C=NNC2=C(C1)Cl)CCl | C19H16Cl2N2O4
